US07825119B2
Synthesis of 2-methoxy-4,6-dihydroxy-5-methyl-pyrimidine.
13.8 g (200 mmoles) of sodium ethylate is added to a solution of 10 g (58 mmoles) of methoxyformamidine sulphate in 100 ml of ethanol cooled down to 0° C. and the mixture is stirred for 15 minutes; then a solution of 9 ml (52 mmoles) of diethyl methyl malonate in 50 ml of ethanol is added followed by stirring overnight at ambient temperature. The reaction mixture is evaporated to dryness under reduced pressure (2 kPa). The residue is taken up in 100 ml of a saturated solution of sodium chloride and extracted with 800 and 200 ml of n-butanol. The organic phases are dried over sodium sulphate, filtered and evaporated to dryness under reduced pressure (2 kPa), 5.9 g of expected product is obtained in the form of a white solid.

reactant | sodium ethylate | 200 mmoles, 13.8 g | CC[O-].[Na+]
reactant | methoxyformamidine sulphate | 58 mmoles, 10 g | S(=O)(=O)(O)O.COC(=N)N
reactant | diethyl methyl malonate | 52 mmoles, 9 ml | CCC(C(=O)OC)C(=O)OCC | C8H14O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-methoxy-4,6-dihydroxy-5-methyl-pyrimidine | 5.9 g | COC1=NC(=C(C(=N1)O)C)O | C6H8N2O3
